US04079070
A mixture of 510 g of diphenyldichlorosilane in 500 ml of acetone was added dropwise in the course of 3 hours to a hot solution, at 60° C, of 340 g of KOH in 1 l of water, while stirring vigorously. The acetone and a little water were then distilled off and, after cooling the residue, the crystalline octaphenylcyclotetrasiloxane was filtered off and washed with water. After drying, 376 g (94% yield) of octaphenylcyclotetrasiloxane of melting point 187° C (metastable crystal modification) were obtained. After recrystallization from toluene, the product had a melting point of 201° C.

reactant | diphenyldichlorosilane | 510 g | C1(=CC=CC=C1)[Si](Cl)(Cl)C1=CC=CC=C1 | C12H10Cl2Si
reactant | KOH | 340 g | [OH-].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
solvent | water | 1 l | O | H2O
product | octaphenylcyclotetrasiloxane | 376 g, 94% yield | C1(=CC=CC=C1)[Si]1(O[Si](O[Si](O[Si](O1)(C1=CC=CC=C1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C48H40O4Si4
